* TR-1um RING_OSC — KLayout 抽出 (scripts/klayout_extract.py)

* cell RING_OSC
* pin ENB
* pin OUT
* pin OUTD
* pin VDD
* pin VSS
.SUBCKT RING_OSC ENB OUT OUTD VDD VSS
* cell instance $1 m0 *1 0,4.8
X$1 VSS OUTD ENB VDD INVALLD
* cell instance $2 r0 *1 0,0
X$2 VSS OUT ENB VDD INVALL
.ENDS RING_OSC

* cell INVALL
* pin VSS
* pin 
* pin 
* pin 
.SUBCKT INVALL VSS \$I4 \$I3 \$I2
* cell instance $1 r0 *1 0,0
X$1 \$I4 \$1 VSS \$I3 \$2 \$I2 INV48
* cell instance $2 r180 *1 1620,114
X$2 VSS \$1 \$2 \$I2 INV49
.ENDS INVALL

* cell INVALLD
* pin VSS
* pin 
* pin 
* pin 
.SUBCKT INVALLD VSS \$I4 \$I3 \$I2
* cell instance $1 r180 *1 1620,114
X$1 VSS \$1 \$2 \$I2 INV49D
* cell instance $2 r0 *1 0,0
X$2 \$I4 \$1 VSS \$I3 \$2 \$I2 INV48D
.ENDS INVALLD

* cell INV49
* pin VSS
* pin 
* pin 
* pin 
.SUBCKT INV49 VSS \$I99 \$I98 \$I50
* cell instance $1 r0 *1 1598.4,0
X$1 \$I50 VSS FILL2
* cell instance $2 r0 *1 10.8,0
X$2 \$I147 VSS \$I99 \$I50 INV3
* cell instance $3 r0 *1 43.2,0
X$3 \$I100 VSS \$I147 \$I50 INV3
* cell instance $4 r0 *1 75.6,0
X$4 \$I101 VSS \$I100 \$I50 INV3
* cell instance $5 r0 *1 108,0
X$5 \$I102 VSS \$I101 \$I50 INV3
* cell instance $6 r0 *1 140.4,0
X$6 \$I103 VSS \$I102 \$I50 INV3
* cell instance $7 r0 *1 172.8,0
X$7 \$I104 VSS \$I103 \$I50 INV3
* cell instance $8 r0 *1 205.2,0
X$8 \$I105 VSS \$I104 \$I50 INV3
* cell instance $9 r0 *1 237.6,0
X$9 \$I106 VSS \$I105 \$I50 INV3
* cell instance $10 r0 *1 270,0
X$10 \$I107 VSS \$I106 \$I50 INV3
* cell instance $11 r0 *1 302.4,0
X$11 \$I108 VSS \$I107 \$I50 INV3
* cell instance $12 r0 *1 334.8,0
X$12 \$I109 VSS \$I108 \$I50 INV3
* cell instance $13 r0 *1 367.2,0
X$13 \$I110 VSS \$I109 \$I50 INV3
* cell instance $14 r0 *1 399.6,0
X$14 \$I111 VSS \$I110 \$I50 INV3
* cell instance $15 r0 *1 432,0
X$15 \$I112 VSS \$I111 \$I50 INV3
* cell instance $16 r0 *1 464.4,0
X$16 \$I113 VSS \$I112 \$I50 INV3
* cell instance $17 r0 *1 496.8,0
X$17 \$I114 VSS \$I113 \$I50 INV3
* cell instance $18 r0 *1 529.2,0
X$18 \$I115 VSS \$I114 \$I50 INV3
* cell instance $19 r0 *1 561.6,0
X$19 \$I116 VSS \$I115 \$I50 INV3
* cell instance $20 r0 *1 594,0
X$20 \$I117 VSS \$I116 \$I50 INV3
* cell instance $21 r0 *1 626.4,0
X$21 \$I118 VSS \$I117 \$I50 INV3
* cell instance $22 r0 *1 658.8,0
X$22 \$I119 VSS \$I118 \$I50 INV3
* cell instance $23 r0 *1 691.2,0
X$23 \$I120 VSS \$I119 \$I50 INV3
* cell instance $24 r0 *1 723.6,0
X$24 \$I121 VSS \$I120 \$I50 INV3
* cell instance $25 r0 *1 756,0
X$25 \$I122 VSS \$I121 \$I50 INV3
* cell instance $26 r0 *1 788.4,0
X$26 \$I123 VSS \$I122 \$I50 INV3
* cell instance $27 r0 *1 820.8,0
X$27 \$I124 VSS \$I123 \$I50 INV3
* cell instance $28 r0 *1 853.2,0
X$28 \$I125 VSS \$I124 \$I50 INV3
* cell instance $29 r0 *1 885.6,0
X$29 \$I126 VSS \$I125 \$I50 INV3
* cell instance $30 r0 *1 918,0
X$30 \$I127 VSS \$I126 \$I50 INV3
* cell instance $31 r0 *1 950.4,0
X$31 \$I128 VSS \$I127 \$I50 INV3
* cell instance $32 r0 *1 982.8,0
X$32 \$I129 VSS \$I128 \$I50 INV3
* cell instance $33 r0 *1 1015.2,0
X$33 \$I130 VSS \$I129 \$I50 INV3
* cell instance $34 r0 *1 1047.6,0
X$34 \$I131 VSS \$I130 \$I50 INV3
* cell instance $35 r0 *1 1080,0
X$35 \$I132 VSS \$I131 \$I50 INV3
* cell instance $36 r0 *1 1112.4,0
X$36 \$I133 VSS \$I132 \$I50 INV3
* cell instance $37 r0 *1 1144.8,0
X$37 \$I134 VSS \$I133 \$I50 INV3
* cell instance $38 r0 *1 1177.2,0
X$38 \$I135 VSS \$I134 \$I50 INV3
* cell instance $39 r0 *1 1209.6,0
X$39 \$I136 VSS \$I135 \$I50 INV3
* cell instance $40 r0 *1 1242,0
X$40 \$I137 VSS \$I136 \$I50 INV3
* cell instance $41 r0 *1 1274.4,0
X$41 \$I138 VSS \$I137 \$I50 INV3
* cell instance $42 r0 *1 1306.8,0
X$42 \$I139 VSS \$I138 \$I50 INV3
* cell instance $43 r0 *1 1339.2,0
X$43 \$I140 VSS \$I139 \$I50 INV3
* cell instance $44 r0 *1 1371.6,0
X$44 \$I141 VSS \$I140 \$I50 INV3
* cell instance $45 r0 *1 1404,0
X$45 \$I142 VSS \$I141 \$I50 INV3
* cell instance $46 r0 *1 1436.4,0
X$46 \$I143 VSS \$I142 \$I50 INV3
* cell instance $47 r0 *1 1468.8,0
X$47 \$I144 VSS \$I143 \$I50 INV3
* cell instance $48 r0 *1 1501.2,0
X$48 \$I145 VSS \$I144 \$I50 INV3
* cell instance $49 r0 *1 1533.6,0
X$49 \$I146 VSS \$I145 \$I50 INV3
* cell instance $50 r0 *1 1566,0
X$50 \$I98 VSS \$I146 \$I50 INV3
.ENDS INV49

* cell INV48
* pin 
* pin 
* pin VSS
* pin 
* pin 
* pin 
.SUBCKT INV48 \$1 \$3 VSS \$I151 \$I105 \$I57
* cell instance $1 r0 *1 1533.6,0
X$1 \$I57 VSS FILL2
* cell instance $2 r0 *1 1544.4,0
X$2 \$I57 VSS FILL2
* cell instance $3 r0 *1 1555.2,0
X$3 \$I57 VSS FILL2
* cell instance $4 r0 *1 1566,0
X$4 \$I57 VSS FILL2
* cell instance $5 r0 *1 1576.8,0
X$5 \$I57 VSS FILL2
* cell instance $6 r0 *1 1587.6,0
X$6 \$I57 VSS FILL2
* cell instance $7 r0 *1 10.8,0
X$7 \$I57 VSS FILL2
* cell instance $8 r0 *1 1598.4,0
X$8 \$3 \$I57 \$1 VSS INV_X1
* cell instance $9 r0 *1 21.6,0
X$9 \$I106 VSS \$I105 \$I57 INV3
* cell instance $10 r0 *1 54,0
X$10 \$I107 VSS \$I106 \$I57 INV3
* cell instance $11 r0 *1 86.4,0
X$11 \$I108 VSS \$I107 \$I57 INV3
* cell instance $12 r0 *1 118.8,0
X$12 \$I109 VSS \$I108 \$I57 INV3
* cell instance $13 r0 *1 151.2,0
X$13 \$I110 VSS \$I109 \$I57 INV3
* cell instance $14 r0 *1 183.6,0
X$14 \$I111 VSS \$I110 \$I57 INV3
* cell instance $15 r0 *1 216,0
X$15 \$I112 VSS \$I111 \$I57 INV3
* cell instance $16 r0 *1 248.4,0
X$16 \$I113 VSS \$I112 \$I57 INV3
* cell instance $17 r0 *1 280.8,0
X$17 \$I114 VSS \$I113 \$I57 INV3
* cell instance $18 r0 *1 313.2,0
X$18 \$I115 VSS \$I114 \$I57 INV3
* cell instance $19 r0 *1 345.6,0
X$19 \$I116 VSS \$I115 \$I57 INV3
* cell instance $20 r0 *1 378,0
X$20 \$I117 VSS \$I116 \$I57 INV3
* cell instance $21 r0 *1 410.4,0
X$21 \$I118 VSS \$I117 \$I57 INV3
* cell instance $22 r0 *1 442.8,0
X$22 \$I119 VSS \$I118 \$I57 INV3
* cell instance $23 r0 *1 475.2,0
X$23 \$I120 VSS \$I119 \$I57 INV3
* cell instance $24 r0 *1 507.6,0
X$24 \$I121 VSS \$I120 \$I57 INV3
* cell instance $25 r0 *1 540,0
X$25 \$I122 VSS \$I121 \$I57 INV3
* cell instance $26 r0 *1 572.4,0
X$26 \$I123 VSS \$I122 \$I57 INV3
* cell instance $27 r0 *1 604.8,0
X$27 \$I124 VSS \$I123 \$I57 INV3
* cell instance $28 r0 *1 637.2,0
X$28 \$I125 VSS \$I124 \$I57 INV3
* cell instance $29 r0 *1 669.6,0
X$29 \$I126 VSS \$I125 \$I57 INV3
* cell instance $30 r0 *1 702,0
X$30 \$I127 VSS \$I126 \$I57 INV3
* cell instance $31 r0 *1 734.4,0
X$31 \$I128 VSS \$I127 \$I57 INV3
* cell instance $32 r0 *1 766.8,0
X$32 \$I129 VSS \$I128 \$I57 INV3
* cell instance $33 r0 *1 799.2,0
X$33 \$I130 VSS \$I129 \$I57 INV3
* cell instance $34 r0 *1 831.6,0
X$34 \$I131 VSS \$I130 \$I57 INV3
* cell instance $35 r0 *1 864,0
X$35 \$I132 VSS \$I131 \$I57 INV3
* cell instance $36 r0 *1 896.4,0
X$36 \$I133 VSS \$I132 \$I57 INV3
* cell instance $37 r0 *1 928.8,0
X$37 \$I134 VSS \$I133 \$I57 INV3
* cell instance $38 r0 *1 961.2,0
X$38 \$I135 VSS \$I134 \$I57 INV3
* cell instance $39 r0 *1 993.6,0
X$39 \$I136 VSS \$I135 \$I57 INV3
* cell instance $40 r0 *1 1026,0
X$40 \$I137 VSS \$I136 \$I57 INV3
* cell instance $41 r0 *1 1058.4,0
X$41 \$I138 VSS \$I137 \$I57 INV3
* cell instance $42 r0 *1 1090.8,0
X$42 \$I139 VSS \$I138 \$I57 INV3
* cell instance $43 r0 *1 1123.2,0
X$43 \$I140 VSS \$I139 \$I57 INV3
* cell instance $44 r0 *1 1155.6,0
X$44 \$I141 VSS \$I140 \$I57 INV3
* cell instance $45 r0 *1 1188,0
X$45 \$I142 VSS \$I141 \$I57 INV3
* cell instance $46 r0 *1 1220.4,0
X$46 \$I143 VSS \$I142 \$I57 INV3
* cell instance $47 r0 *1 1252.8,0
X$47 \$I144 VSS \$I143 \$I57 INV3
* cell instance $48 r0 *1 1285.2,0
X$48 \$I145 VSS \$I144 \$I57 INV3
* cell instance $49 r0 *1 1317.6,0
X$49 \$I146 VSS \$I145 \$I57 INV3
* cell instance $50 r0 *1 1350,0
X$50 \$I147 VSS \$I146 \$I57 INV3
* cell instance $51 r0 *1 1382.4,0
X$51 \$I148 VSS \$I147 \$I57 INV3
* cell instance $52 r0 *1 1414.8,0
X$52 \$I149 VSS \$I148 \$I57 INV3
* cell instance $53 r0 *1 1447.2,0
X$53 \$2 VSS \$I149 \$I57 INV3
* cell instance $54 r0 *1 1479.6,0
X$54 \$I104 VSS \$2 \$I57 INV3
* cell instance $57 r0 *1 1512,0
X$57 \$I104 \$I151 \$I57 \$3 VSS AND2_X1
.ENDS INV48

* cell INV48D
* pin 
* pin 
* pin VSS
* pin 
* pin 
* pin 
.SUBCKT INV48D \$1 \$3 VSS \$I151 \$I106 \$I60
* cell instance $1 r0 *1 1533.6,0
X$1 \$I60 VSS FILL2
* cell instance $2 r0 *1 1544.4,0
X$2 \$I60 VSS FILL2
* cell instance $3 r0 *1 1555.2,0
X$3 \$I60 VSS FILL2
* cell instance $4 r0 *1 1566,0
X$4 \$I60 VSS FILL2
* cell instance $5 r0 *1 1576.8,0
X$5 \$I60 VSS FILL2
* cell instance $6 r0 *1 1587.6,0
X$6 \$I60 VSS FILL2
* cell instance $7 r0 *1 10.8,0
X$7 \$I60 VSS FILL2
* cell instance $8 r0 *1 1598.4,0
X$8 \$3 \$I60 \$1 VSS INV_X1
* cell instance $9 r0 *1 21.6,0
X$9 \$I106 \$I61 \$I60 VSS INV3D
* cell instance $10 r0 *1 54,0
X$10 \$I61 \$I107 \$I60 VSS INV3D
* cell instance $11 r0 *1 86.4,0
X$11 \$I107 \$I108 \$I60 VSS INV3D
* cell instance $12 r0 *1 118.8,0
X$12 \$I108 \$I109 \$I60 VSS INV3D
* cell instance $13 r0 *1 151.2,0
X$13 \$I109 \$I110 \$I60 VSS INV3D
* cell instance $14 r0 *1 183.6,0
X$14 \$I110 \$I111 \$I60 VSS INV3D
* cell instance $15 r0 *1 216,0
X$15 \$I111 \$I112 \$I60 VSS INV3D
* cell instance $16 r0 *1 248.4,0
X$16 \$I112 \$I113 \$I60 VSS INV3D
* cell instance $17 r0 *1 280.8,0
X$17 \$I113 \$I114 \$I60 VSS INV3D
* cell instance $18 r0 *1 313.2,0
X$18 \$I114 \$I115 \$I60 VSS INV3D
* cell instance $19 r0 *1 345.6,0
X$19 \$I115 \$I116 \$I60 VSS INV3D
* cell instance $20 r0 *1 378,0
X$20 \$I116 \$I117 \$I60 VSS INV3D
* cell instance $21 r0 *1 410.4,0
X$21 \$I117 \$I118 \$I60 VSS INV3D
* cell instance $22 r0 *1 442.8,0
X$22 \$I118 \$I119 \$I60 VSS INV3D
* cell instance $23 r0 *1 475.2,0
X$23 \$I119 \$I120 \$I60 VSS INV3D
* cell instance $24 r0 *1 507.6,0
X$24 \$I120 \$I121 \$I60 VSS INV3D
* cell instance $25 r0 *1 540,0
X$25 \$I121 \$I122 \$I60 VSS INV3D
* cell instance $26 r0 *1 572.4,0
X$26 \$I122 \$I123 \$I60 VSS INV3D
* cell instance $27 r0 *1 604.8,0
X$27 \$I123 \$I124 \$I60 VSS INV3D
* cell instance $28 r0 *1 637.2,0
X$28 \$I124 \$I125 \$I60 VSS INV3D
* cell instance $29 r0 *1 669.6,0
X$29 \$I125 \$I126 \$I60 VSS INV3D
* cell instance $30 r0 *1 702,0
X$30 \$I126 \$I127 \$I60 VSS INV3D
* cell instance $31 r0 *1 734.4,0
X$31 \$I127 \$I128 \$I60 VSS INV3D
* cell instance $32 r0 *1 766.8,0
X$32 \$I128 \$I129 \$I60 VSS INV3D
* cell instance $33 r0 *1 799.2,0
X$33 \$I129 \$I130 \$I60 VSS INV3D
* cell instance $34 r0 *1 831.6,0
X$34 \$I130 \$I131 \$I60 VSS INV3D
* cell instance $35 r0 *1 864,0
X$35 \$I131 \$I132 \$I60 VSS INV3D
* cell instance $36 r0 *1 896.4,0
X$36 \$I132 \$I133 \$I60 VSS INV3D
* cell instance $37 r0 *1 928.8,0
X$37 \$I133 \$I134 \$I60 VSS INV3D
* cell instance $38 r0 *1 961.2,0
X$38 \$I134 \$I135 \$I60 VSS INV3D
* cell instance $39 r0 *1 993.6,0
X$39 \$I135 \$I136 \$I60 VSS INV3D
* cell instance $40 r0 *1 1026,0
X$40 \$I136 \$I137 \$I60 VSS INV3D
* cell instance $41 r0 *1 1058.4,0
X$41 \$I137 \$I138 \$I60 VSS INV3D
* cell instance $42 r0 *1 1090.8,0
X$42 \$I138 \$I139 \$I60 VSS INV3D
* cell instance $43 r0 *1 1123.2,0
X$43 \$I139 \$I140 \$I60 VSS INV3D
* cell instance $44 r0 *1 1155.6,0
X$44 \$I140 \$I141 \$I60 VSS INV3D
* cell instance $45 r0 *1 1188,0
X$45 \$I141 \$I142 \$I60 VSS INV3D
* cell instance $46 r0 *1 1220.4,0
X$46 \$I142 \$I143 \$I60 VSS INV3D
* cell instance $47 r0 *1 1252.8,0
X$47 \$I143 \$I144 \$I60 VSS INV3D
* cell instance $48 r0 *1 1285.2,0
X$48 \$I144 \$I145 \$I60 VSS INV3D
* cell instance $49 r0 *1 1317.6,0
X$49 \$I145 \$I146 \$I60 VSS INV3D
* cell instance $50 r0 *1 1350,0
X$50 \$I146 \$I147 \$I60 VSS INV3D
* cell instance $51 r0 *1 1382.4,0
X$51 \$I147 \$I148 \$I60 VSS INV3D
* cell instance $52 r0 *1 1414.8,0
X$52 \$I148 \$I149 \$I60 VSS INV3D
* cell instance $53 r0 *1 1447.2,0
X$53 \$I149 \$2 \$I60 VSS INV3D
* cell instance $54 r0 *1 1479.6,0
X$54 \$2 \$I14 \$I60 VSS INV3D
* cell instance $57 r0 *1 1512,0
X$57 \$I14 \$I151 \$I60 \$3 VSS AND2_X1
.ENDS INV48D

* cell INV49D
* pin VSS
* pin 
* pin 
* pin 
.SUBCKT INV49D VSS \$I102 \$I101 \$I52
* cell instance $1 r0 *1 1598.4,0
X$1 \$I52 VSS FILL2
* cell instance $2 r0 *1 10.8,0
X$2 \$I102 \$I103 \$I52 VSS INV3D
* cell instance $3 r0 *1 43.2,0
X$3 \$I103 \$I104 \$I52 VSS INV3D
* cell instance $4 r0 *1 75.6,0
X$4 \$I104 \$I105 \$I52 VSS INV3D
* cell instance $5 r0 *1 108,0
X$5 \$I105 \$I106 \$I52 VSS INV3D
* cell instance $6 r0 *1 140.4,0
X$6 \$I106 \$I107 \$I52 VSS INV3D
* cell instance $7 r0 *1 172.8,0
X$7 \$I107 \$I108 \$I52 VSS INV3D
* cell instance $8 r0 *1 205.2,0
X$8 \$I108 \$I109 \$I52 VSS INV3D
* cell instance $9 r0 *1 237.6,0
X$9 \$I109 \$I110 \$I52 VSS INV3D
* cell instance $10 r0 *1 270,0
X$10 \$I110 \$I111 \$I52 VSS INV3D
* cell instance $11 r0 *1 302.4,0
X$11 \$I111 \$I112 \$I52 VSS INV3D
* cell instance $12 r0 *1 334.8,0
X$12 \$I112 \$I113 \$I52 VSS INV3D
* cell instance $13 r0 *1 367.2,0
X$13 \$I113 \$I114 \$I52 VSS INV3D
* cell instance $14 r0 *1 399.6,0
X$14 \$I114 \$I115 \$I52 VSS INV3D
* cell instance $15 r0 *1 432,0
X$15 \$I115 \$I116 \$I52 VSS INV3D
* cell instance $16 r0 *1 464.4,0
X$16 \$I116 \$I117 \$I52 VSS INV3D
* cell instance $17 r0 *1 496.8,0
X$17 \$I117 \$I118 \$I52 VSS INV3D
* cell instance $18 r0 *1 529.2,0
X$18 \$I118 \$I119 \$I52 VSS INV3D
* cell instance $19 r0 *1 561.6,0
X$19 \$I119 \$I120 \$I52 VSS INV3D
* cell instance $20 r0 *1 594,0
X$20 \$I120 \$I121 \$I52 VSS INV3D
* cell instance $21 r0 *1 626.4,0
X$21 \$I121 \$I122 \$I52 VSS INV3D
* cell instance $22 r0 *1 658.8,0
X$22 \$I122 \$I123 \$I52 VSS INV3D
* cell instance $23 r0 *1 691.2,0
X$23 \$I123 \$I124 \$I52 VSS INV3D
* cell instance $24 r0 *1 723.6,0
X$24 \$I124 \$I125 \$I52 VSS INV3D
* cell instance $25 r0 *1 756,0
X$25 \$I125 \$I126 \$I52 VSS INV3D
* cell instance $26 r0 *1 788.4,0
X$26 \$I126 \$I127 \$I52 VSS INV3D
* cell instance $27 r0 *1 820.8,0
X$27 \$I127 \$I128 \$I52 VSS INV3D
* cell instance $28 r0 *1 853.2,0
X$28 \$I128 \$I129 \$I52 VSS INV3D
* cell instance $29 r0 *1 885.6,0
X$29 \$I129 \$I130 \$I52 VSS INV3D
* cell instance $30 r0 *1 918,0
X$30 \$I130 \$I131 \$I52 VSS INV3D
* cell instance $31 r0 *1 950.4,0
X$31 \$I131 \$I132 \$I52 VSS INV3D
* cell instance $32 r0 *1 982.8,0
X$32 \$I132 \$I133 \$I52 VSS INV3D
* cell instance $33 r0 *1 1015.2,0
X$33 \$I133 \$I134 \$I52 VSS INV3D
* cell instance $34 r0 *1 1047.6,0
X$34 \$I134 \$I135 \$I52 VSS INV3D
* cell instance $35 r0 *1 1080,0
X$35 \$I135 \$I136 \$I52 VSS INV3D
* cell instance $36 r0 *1 1112.4,0
X$36 \$I136 \$I137 \$I52 VSS INV3D
* cell instance $37 r0 *1 1144.8,0
X$37 \$I137 \$I138 \$I52 VSS INV3D
* cell instance $38 r0 *1 1177.2,0
X$38 \$I138 \$I139 \$I52 VSS INV3D
* cell instance $39 r0 *1 1209.6,0
X$39 \$I139 \$I140 \$I52 VSS INV3D
* cell instance $40 r0 *1 1242,0
X$40 \$I140 \$I141 \$I52 VSS INV3D
* cell instance $41 r0 *1 1274.4,0
X$41 \$I141 \$I142 \$I52 VSS INV3D
* cell instance $42 r0 *1 1306.8,0
X$42 \$I142 \$I143 \$I52 VSS INV3D
* cell instance $43 r0 *1 1339.2,0
X$43 \$I143 \$I144 \$I52 VSS INV3D
* cell instance $44 r0 *1 1371.6,0
X$44 \$I144 \$I145 \$I52 VSS INV3D
* cell instance $45 r0 *1 1404,0
X$45 \$I145 \$I146 \$I52 VSS INV3D
* cell instance $46 r0 *1 1436.4,0
X$46 \$I146 \$I147 \$I52 VSS INV3D
* cell instance $47 r0 *1 1468.8,0
X$47 \$I147 \$I148 \$I52 VSS INV3D
* cell instance $48 r0 *1 1501.2,0
X$48 \$I148 \$I149 \$I52 VSS INV3D
* cell instance $49 r0 *1 1533.6,0
X$49 \$I149 \$I150 \$I52 VSS INV3D
* cell instance $50 r0 *1 1566,0
X$50 \$I150 \$I101 \$I52 VSS INV3D
.ENDS INV49D

* cell INV3
* pin 
* pin VSS
* pin 
* pin 
.SUBCKT INV3 \$1 VSS \$I4 \$I2
* cell instance $1 r0 *1 10.8,0
X$1 \$I2 VSS FILL2
* cell instance $2 r0 *1 21.6,0
X$2 \$I2 VSS FILL2
* cell instance $3 r0 *1 0,0
X$3 \$I4 \$I2 \$1 VSS INV_X1
.ENDS INV3

* cell AND2_X1
* pin A
* pin B
* pin vdd
* pin Y
* pin vss
.SUBCKT AND2_X1 A B vdd Y vss
* device instance $1 r0 *1 4,47.8 PMOS
XM$1 \$3 A vdd vdd PMOS L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 8,47.8 PMOS
XM$2 vdd B \$3 vdd PMOS L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $3 r0 *1 12,47.8 PMOS
XM$3 Y \$3 vdd vdd PMOS L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $4 r0 *1 8.6,17.9 NMOS
XM$4 \$7 A vss vss NMOS L=1U W=3.4U AS=9.52P AD=2.04P PS=12.4U PD=4.6U
* device instance $5 r0 *1 10.8,17.9 NMOS
XM$5 \$3 B \$7 vss NMOS L=1U W=3.4U AS=2.04P AD=9.52P PS=4.6U PD=12.4U
* device instance $6 r0 *1 16.2,9.4 NMOS
XM$6 Y \$3 vss vss NMOS L=1U W=3.4U AS=35.36P AD=9.52P PS=27.6U PD=12.4U
.ENDS AND2_X1

* cell INV3D
* pin A
* pin Y
* pin vdd
* pin gnd
.SUBCKT INV3D A Y vdd gnd
* device instance $1 r0 *1 4,47.8 PMOS
XM$1 vdd A Y vdd PMOS L=1U W=10.2U AS=409.34P AD=28.56P PS=85.4U PD=26U
* device instance $2 r0 *1 5.4,8.2 NMOS
XM$2 Y A gnd gnd NMOS L=1U W=3.4U AS=9.52P AD=306.89P PS=12.4U PD=77.2U
.ENDS INV3D

* cell INV_X1
* pin A
* pin vdd
* pin Y
* pin vss
.SUBCKT INV_X1 A vdd Y vss
* device instance $1 r0 *1 4,47.8 PMOS
XM$1 Y A vdd vdd PMOS L=1U W=10.2U AS=28.56P AD=28.56P PS=26U PD=26U
* device instance $2 r0 *1 5.4,8.2 NMOS
XM$2 Y A vss vss NMOS L=1U W=3.4U AS=9.52P AD=9.52P PS=12.4U PD=12.4U
.ENDS INV_X1

* cell FILL2
* pin vdd
* pin vss
.SUBCKT FILL2 vdd vss
* device instance $1 r0 *1 5.4,45 PMOS
XM$1 vdd vss vdd vdd PMOS L=3.2U W=15.8U AS=44.24P AD=44.24P PS=37.2U PD=37.2U
* device instance $2 r0 *1 5.4,13.05 NMOS
XM$2 vss vdd vss vss NMOS L=3.2U W=13.1U AS=36.68P AD=36.68P PS=31.8U PD=31.8U
.ENDS FILL2
