* Created by KLayout
*** My special header ***

* cell BUF_X2
* pin A
* pin Y
* pin vss
* pin vdd
.SUBCKT BUF_X2 A Y vss vdd
* device instance $1 r0 *1 4,47.8 PMOS
XM$1 \$2 A vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 8,47.8 PMOS
XM$2 vdd \$2 Y vdd PMOS L=1u W=20.4u AS=30.6p AD=43.86p PS=26.4u PD=39.2u
* device instance $4 r0 *1 4,8.2 NMOS
XM$4 \$2 A vss vss NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 8,8.2 NMOS
XM$5 vss \$2 Y vss NMOS L=1u W=6.8u AS=10.2p AD=14.62p PS=12.8u PD=18.8u
.ENDS BUF_X2
